US05591862
According to the method described for Reference Example 34, (E)-3-[2-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2-propen-1-ol was subjected to oxidation with activated manganese dioxide to give (E)-3-[2-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2-propen-1-al. Recrystallization from chloroform--isopropyl ether gave colorless prisms, m.p.112°-113° C.

reactant | (E)-3-[2-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2-propen-1-ol | CC1=C(N=C(O1)COC1=C(C=CC=C1)/C=C/CO)C1=CC=CC=C1 | C20H19NO3
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E)-3-[2-(5-methyl-4-phenyl-2-oxazolylmethoxy)phenyl]-2-propen-1-al | CC1=C(N=C(O1)COC1=C(C=CC=C1)/C=C/C=O)C1=CC=CC=C1 | C20H17NO3
